US08980913B2
Step 5: N-(2-(1,3-Dioxolan-2-yl)ethyl)-N-(2-hydroxyethyl)acetamide
To a stirred solution of N-(2-(1,3-dioxolan-2-yl)ethyl)-N-(2-((tert-butyldimethylsilyl)oxy)ethyl)acetamide (0.65 g, 2.04 mmol) in THF (5 mL) was added a solution of tetrabutylammonium fluoride (1.0 M in THF, 2.24 mL). The reaction mixture was stirred at RT for 18 hours. The reaction mixture was diluted with water and extracted with ethyl acetate (×3). The combined organic extracts were dried (magnesium sulfate), filtered and the solvent evaporated at reduced pressure. The residue was purified by flash column chromatography eluting with 0 to 100% ethyl acetate/iso-hexane to afford the title compound (0.287 g, 69%) which was used directly in the next step.

reactant | N-(2-(1,3-dioxolan-2-yl)ethyl)-N-(2-((tert-butyldimethylsilyl)oxy)ethyl)acetamide | 2.04 mmol, 0.65 g | O1C(OCC1)CCN(C(C)=O)CCO[Si](C)(C)C(C)(C)C | C15H31NO4Si
reactant | tetrabutylammonium fluoride | 1.0 M, 2.24 mL | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | N-(2-(1,3-Dioxolan-2-yl)ethyl)-N-(2-hydroxyethyl)acetamide | 0.287 g, 69% | O1C(OCC1)CCN(C(C)=O)CCO | C9H17NO4
